US07855208B2
(9-Methyl-3,9-diaza-bicyclo[3.3.1]non-3-yl)-[5-(4-nitro-phenyl)-furan-2-yl]-methanone hydrochloric acid salt (Compound A1)
9-Methyl-3,9-diaza-bicyclo[3.3.1]nonane (2.0 g, 14.3 mmol), 5-(4-nitro-phenyl)-furan-2-carboxylic acid chloride (3.59 g, 14.3 mmol) and 1,2-dimethoxyethane (40 ml) was stirred at room temperature for 15 hours. The product was filtered and was purified by washing with 1,2-dimethoxyethane (100 ml). Yield 5.24 g (94%). Mp. 263° C.

reactant | 9-Methyl-3,9-diaza-bicyclo[3.3.1]nonane | 14.3 mmol, 2.0 g | CN1C2CNCC1CCC2 | C8H16N2
reactant | 5-(4-nitro-phenyl)-furan-2-carboxylic acid chloride | 14.3 mmol, 3.59 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C(=O)Cl | C11H6ClNO4
solvent | 1,2-dimethoxyethane | 40 ml | COCCOC | C4H10O2
product | (9-Methyl-3,9-diaza-bicyclo[3.3.1]non-3-yl)-[5-(4-nitro-phenyl)-furan-2-yl]-methanone hydrochloric acid salt | Cl.CN1C2CN(CC1CCC2)C(=O)C=2OC(=CC2)C2=CC=C(C=C2)[N+](=O)[O-] | InChI=1S/C19H21N3O4.ClH/c1-20-15-3-2-4-16(20)12-21(11-15)19(23)18-10-9-17(26-18)13-5-7-14(8-6-13)22(24)25;/h5-10,15-16H,2-4,11-12H2,1H3;1H
